US07842713B2
4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-2-methyl-N-(5-methylpyridin-2-yl)benzofuran-6-carboxamide
The title compound was prepared in a similar manner as described for Example 271, from ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate (0.275 g, 1.25 mmol), 2,4-difluoro-N,N-dimethylbenzamide (0.289 g, 1.56 mmol) and 2-amino-5-methylpyridine (0.229 g, 2.1 mmol) in two steps to give an off-white solid (131 mg, 24% yield). 1H NMR (400 MHz, DMSO-d6) δ 10.79 (s, 1 H) 8.21 (m, 1 H) 8.16 (s, 1 H) 8.06-8.08 (d, 1 H)) 7.66 (m, 1 H) 7.64 (m, 1 H) 7.37-7.41 (t, 1 H) 7.02-7.06 (m, 1 H) 6.89-6.92 (m, 1 H) 6.50 (s, 1 H) 2.99 (s, 3 H) 2.87 (m, 3 H) 2.47 (m, 3 H) 2.27 (s, 3 H).

reactant | ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate | 1.25 mmol, 0.275 g | OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C12H12O4
reactant | 2,4-difluoro-N,N-dimethylbenzamide | 1.56 mmol, 0.289 g | FC1=C(C(=O)N(C)C)C=CC(=C1)F | C9H9F2NO
reactant | 2-amino-5-methylpyridine | 2.1 mmol, 0.229 g | NC1=NC=C(C=C1)C | C6H8N2
product | 4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-2-methyl-N-(5-methylpyridin-2-yl)benzofuran-6-carboxamide | CN(C(=O)C1=C(C=C(OC2=CC(=CC3=C2C=C(O3)C)C(=O)NC3=NC=C(C=C3)C)C=C1)F)C | C25H22FN3O4
